US07812008B2
(4S,4aS,5aR,12aS)-9-[(N-benzyl-N-hydroxyglycyl)amino]-4,7-bis(dimethylamino)-3,10,12,12a-tetrahydroxy-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydrotetracene-2-carboxamide
The compound of the example is prepared by the procedure of Example 1 using 3 g of N-benzylhydroxylamine hydrochloride, 2 g of sodium carbonate, and 0.8 g of 9-(2-bromo-acetylamino)-4,7-bis-dimethylamino-3,10,12,12a-tetrahydroxy-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydro-naphthacene-2-carboxylic acid amide in 10 ml DMPU and 3 ml acetonitrile to give 0.315 g of the product.

reactant | N-benzylhydroxylamine hydrochloride | 3 g | Cl.C(C1=CC=CC=C1)NO
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 9-(2-bromo-acetylamino)-4,7-bis-dimethylamino-3,10,12,12a-tetrahydroxy-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydro-naphthacene-2-carboxylic acid amide | 0.8 g | BrCC(=O)NC1=CC(=C2CC3CC4C(C(=C(C(C4(C(=C3C(C2=C1O)=O)O)O)=O)C(=O)N)O)N(C)C)N(C)C | C25H29BrN4O8
solvent | DMPU | 10 ml | CN1CCCN(C1=O)C | C6H12N2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (4S,4aS,5aR,12aS)-9-[(N-benzyl-N-hydroxyglycyl)amino]-4,7-bis(dimethylamino)-3,10,12,12a-tetrahydroxy-1,11-dioxo-1,4,4a,5,5a,6,11,12a-octahydrotetracene-2-carboxamide | 0.315 g | C(C1=CC=CC=C1)N(CC(=O)NC1=CC(=C2C[C@H]3C[C@H]4[C@@H](C(=C(C([C@]4(C(=C3C(C2=C1O)=O)O)O)=O)C(=O)N)O)N(C)C)N(C)C)O | C32H37N5O9
